US04877899
To a solution of 2-propynol (0.65 g/0.68 ml, 11.7 mmol) in 25 ml of tetrahydrofuran (THF), cooled to -60°, is slowly added butyllithium in hexane (14.6 ml, 23.3 mmol) over 5 min. About 5 ml of HMPA is added and the mixture is warmed to -20° and stirred for 5 min. The mixture is then cooled again to -60° and octylthiocyanate (2.0 g, 11.7 mmol) in 3 ml of THF is added over 1 min. The mixture is allowed to warm to RT over 1 hour and is stirred at RT for an additional hour. It is then cooled to -10° and quenched with water. The reaction mixture is diluted with ether, washed with water and brine and dried to give 3-octylthio-2-propynol.

reactant | 2-propynol | 11.7 mmol, 0.68 ml, 0.65 g | C(C#C)O | C3H4O
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 23.3 mmol, 14.6 ml | CCCCCC | C6H14
reactant | octylthiocyanate | 11.7 mmol, 2.0 g | C(CCCCCCC)SC#N | C9H17NS
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 3 ml | O1CCCC1 | C4H8O
solvent | HMPA | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 3-octylthio-2-propynol | C(CCCCCCC)SC#CCO | C11H20OS
